US04474794
The methanols produced by the process of this example are readily converted to the corresponding thiazolemethyl chlorides according to the following procedure: A suspension was prepared from 1.05 grams of 2-dimethylaminomethyl-4-thiazolemethanol hydrochloride and 15 ml. of chloroform. Thionyl chloride (2.50 g) was added and the resulting mixture was stirred at reflux temperature for about 2.75 hours. Any volatile constituents including excess thionyl chloride were removed by evaporation. The residue was suspended in chloroform and the chloroform removed by evaporation. The residue was then recrystallized from a methanol-ethyl acetate solvent mixture to yield 2-dimethylaminomethyl-4-thiazolylmethylchloride hydrochloride melting at 136°-8° C.

reactant | 2-dimethylaminomethyl-4-thiazolemethanol hydrochloride | 1.05 grams | Cl.CN(C)CC=1SC=C(N1)CO
reactant | Thionyl chloride | 2.50 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-dimethylaminomethyl-4-thiazolylmethylchloride hydrochloride | Cl.CN(C)CC=1SC=C(N1)CCl | InChI=1S/C7H11ClN2S.ClH/c1-10(2)4-7-9-6(3-8)5-11-7;/h5H,3-4H2,1-2H3;1H
